US07504411B2
Ethylenediamine (0.60 g, 10.0 mmol) was added to a solution of ethyl 2-(4-fluoro-2-methoxyphenyl)-2-oxoacetate (2.26 g, 10.0 mmol) in ethanol (30 ml) and refluxed 4 hr. After removal of the solvent under reduced pressure, residue was washed with ethanol-diethyl ether to give 5,6-dihydro-3-(4-fluoro-2-methoxyphenyl)pyrazinone (1.76 g, 79%).

reactant | Ethylenediamine | 10.0 mmol, 0.60 g | C(CN)N | C2H8N2
reactant | ethyl 2-(4-fluoro-2-methoxyphenyl)-2-oxoacetate | 10.0 mmol, 2.26 g | FC1=CC(=C(C=C1)C(C(=O)OCC)=O)OC | C11H11FO4
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5,6-dihydro-3-(4-fluoro-2-methoxyphenyl)pyrazinone | 1.76 g, 79% | FC1=CC(=C(C=C1)C=1C(NCCN1)=O)OC | C11H11FN2O2
